US07250442B2
1-(3-Methoxy-phenyl)-1H-indol-2,3-dione
Using a method similar to Preparation 38, with isatin (2.94 g, 20 mmol), 3-methoxyphenylboronic acid (6.08 g, 40 mmol), copper (II) acetate (3.63 g, 20 mmol), pyridine (3.2 ml, 40 mmol) and powdered 4A sieves (15-25 g) in dichloromethane (60 mL). Follow reaction by TLC (50% ethyl acetate/hexane). Stir mechanically for 1 day and add more powdered 4A sieves (10-15 g). Stir for 3 days and add 3-methoxyphenylboronic acid (1.52 g, 10 mmol), copper (II) acetate (1.82 g, 10 mmol), pyridine (1.6 ml, 20 mmol) and powdered 4A sieves (10-15 g). Workup and purify by flash chromotagraphy (dichloromethane) to provide 4.09 g (81%) of an orange solid. MS (ES): m/z=254 (M+1); 1H NMR (DMSO-d6): δ7.66-7.58 (m, 2H), 7.51 (t, 1H), 7.19 (t, 1H), 7.09-7.04 (m, 3H) 6.85 (d, 1H), 3.80 (s, 3H).

reactant | isatin | 20 mmol, 2.94 g | N1C(=O)C(=O)C2=CC=CC=C12 | C8H5NO2
reactant | 3-methoxyphenylboronic acid | 40 mmol, 6.08 g | COC=1C=C(C=CC1)B(O)O | C7H9BO3
reactant | pyridine | 40 mmol, 3.2 ml | N1=CC=CC=C1 | C5H5N
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
reactant | 3-methoxyphenylboronic acid | 10 mmol, 1.52 g | COC=1C=C(C=CC1)B(O)O | C7H9BO3
reactant | pyridine | 20 mmol, 1.6 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
catalyst | copper (II) acetate | 20 mmol, 3.63 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
catalyst | copper (II) acetate | 10 mmol, 1.82 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 1-(3-Methoxy-phenyl)-1H-indol-2,3-dione | 4.09 g, 81% | COC=1C=C(C=CC1)N1C(C(C2=CC=CC=C12)=O)=O | C15H11NO3
